US07332622B2
Preparation of methyl 3-(4-chlorophenyl)-2-methoxycarbonyl-4-nitrobutanoate
[(S,S)-N-(pentamethylbenzenesulfonyl)-1,2-diphenyl-ethylenediamine](hexamethylbenzene)ruthenium (13.7 mg, 0.02 mmol, S/C=50), 4-chloro-β-nitrostyrene (1.0 mmol), dimethyl malonate (114 μl, 1.0 mmol) and toluene (1 ml) were added into Schlenk (20 ml) under an argon atmosphere, and stirred at −20° C. for 48 hours. The reaction solution was purified by flash column chromatography (hexane/acetone=80/20, SiO2), showing that the isolation yield of the product was 24%. The optical purity was measured by HPLC (CHIRALPACK AD manufactured by Daicel Co., Ltd., hexane:2-propanol=90:10, flow rate 0.5 ml/min, detection by 210 nm), resulting to 95% ee.

reactant | 4-chloro-β-nitrostyrene | 1.0 mmol | ClC1=CC=C(C=C[N+](=O)[O-])C=C1 | C8H6ClNO2
reactant | dimethyl malonate | 1.0 mmol, 114 μl | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-chlorophenyl)-2-methoxycarbonyl-4-nitrobutanoate | ClC1=CC=C(C=C1)C(C(C(=O)OC)C(=O)OC)C[N+](=O)[O-] | C13H14ClNO6
